US09029405B2
Step 4: tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-(4-(N′-hydroxycarbamimidoyl)phenyl)ethylamino)acetate
A solution of tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-(4-cyanophenyl)ethylamino)acetate (0.496 g; 1.27 mmol) and 50% aqueous hydroxylamine (0.389 mL; 6.49 mmol) in ethanol (5 mL) was heated at 70° C. for 18 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was poured through a hydrophobic frit and evaporated in vacuo to afford the title compound (0.566 g, 100%). 1H NMR (CDCl3, 400 MHz) δ 7.59 (d, J=8.4 Hz, 2H), 7.39 (d, J=8.0 Hz, 2H), 7.00 (br s, 1H), 4.84 (br s, 2H), 3.84-3.81 (m, 1H), 3.68-3.57 (m, 2H), 3.25 (d, J=17.2 Hz, 1H), 3.08 (d, J=16.8 Hz, 1H), 2.60 (br s, 1H), 1.44 (s, 9H), 0.88 (s, 9H), 0.03 (s, 3H), 0.01 (s, 3H).

reactant | tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-(4-cyanophenyl)ethylamino)acetate | 1.27 mmol, 0.496 g | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C#N)NCC(=O)OC(C)(C)C | C21H34N2O3Si
reactant | hydroxylamine | 6.49 mmol, 0.389 mL | NO | H3NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-(4-(N′-hydroxycarbamimidoyl)phenyl)ethylamino)acetate | 0.566 g, 100% | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C(N)=NO)NCC(=O)OC(C)(C)C | C21H37N3O4Si
